* OPA891 - Rev. 1.1
* Created by Jacob Freet; 2023-04-29
* Created with Green-Williams-Lis Current Sense Amp Macro-model Architecture
* Copyright 2023 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* AC PARAMETERS
**********************
* CLOSED-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zout vs. Freq.)
* CLOSED-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Acl vs. Freq.)
* COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR vs. Freq.)
* POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR vs. Freq.)
* INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en vs. Freq.)
**********************
* DC PARAMETERS
**********************
* INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vout vs. Iout)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* QUIESCENT CURRENT (Iq)
* INPUT CURRENT NOISE (in)
**********************
* TRANSIENT PARAMETERS
**********************
* SLEW RATE (SR)
* SETTLING TIME VS. CAPACITIVE LOAD (ts)
* OVERLOAD RECOVERY TIME (tor)
**********************
* Change log
**********************
* V1.0 -> V1.1: Fixed issue with output clamping
******************************************************
.subckt OPA891 IN+ IN- OUT V+ V-
******************************************************

.MODEL R_RES_1 RES ( TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=0)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=100M)
.MODEL S_VSWITCH_3 VSWITCH (RON=10M ROFF=1T VON=10M VOFF=0)
.MODEL S_VSWITCH_4 VSWITCH (RON=1M ROFF=1T VON=500M VOFF=100M)

I_OS        ESDn MID 8.97U
I_B         21 MID 9U
V_GRp       70 MID 100
V_GRn       71 MID -100
V_ISCp      64 MID 200
V_ISCn      65 MID -200
V_ORn       63 VCLP -105M
V11         69 62 0
V_ORp       61 VCLP 105M
V12         68 60 0
V4          49 OUT 0
VCM_MIN     92 VEE_B 700M
VCM_MAX     93 VCC_B 700M
I_Q         V+ V- 7.5M
V_OS        99 21 159.67U
R52         MID ESDp R_RES_1 1T 
R53         ESDn MID R_RES_1 1T 
XIn11       ESDn MID FEMT_0
Xi_n        MID 21 FEMT_0
Xe_n        ESDp 21 VNSE_0
C31         MID 22  54.88P IC=0
R93         23 24 R_RES_1 100 
L3          25 23  491.21P IC=0
R73         MID 24 R_RES_1 1 
GVCCS17     24 MID 26 25  -1MEG
C26         MID 25  282.9F IC=0
R72         27 26 R_RES_1 100 
L2          28 27  4.112N IC=0
R71         MID 26 R_RES_1 1 
GVCCS16     26 MID 29 28  -1MEG
C25         MID 28  304.2F IC=0
R70         MID 29 R_RES_1 1 
GVCCS15     29 MID 22 MID  -1
R69         MID 22 R_RES_1 1 
GVCCS6      22 MID 30 MID  -1
C23         MID 30  1.06P IC=0
L1          31 30  16.58N IC=0
R68         32 31 R_RES_1 100 
R67         MID 32 R_RES_1 1 
GVCCS5      32 MID 33 MID  -5.263
R66         MID 33 R_RES_1 23.46 
C22         34 33  4.188P IC=0
R65         34 33 R_RES_1 100 
R64         MID 34 R_RES_1 1 
GVCCS4      34 MID 35 MID  -1
C21         36 MID  49.74P IC=0
R63         35 36 R_RES_1 100 
R62         37 35 R_RES_1 60 
R51         MID 37 R_RES_1 1 
GVCCS3      37 MID VSENSE MID  -1
C20         CLAMP MID  215P IC=0
R50         MID CLAMP R_RES_1 1MEG 
XVCCS_LIM_2 38 MID MID CLAMP VCCS_LIM_2_0
R44         MID 38 R_RES_1 1MEG 
XVCCS_LIM_1 39 40 MID 38 VCCS_LIM_1_0
R92         41 42 R_RES_1 10K 
C30         41 42  18.95N
R91         MID 42 R_RES_1 66.14K 
GVCCS14     43 MID 42 MID  -1.151
R90         43 MID R_RES_1 1 
XU1         44 MID MID 45 VCCS_LIM_ZO_0
R87         46 44 R_RES_1 10K 
C29         46 44  11.37F
R86         MID 44 R_RES_1 7.784 
R85         45 MID R_RES_1 1 
R84         46 MID R_RES_1 1 
GVCCS13     46 MID 47 MID  -1
C15         MID 48  1.317P
R83         48 47 R_RES_1 100 
R82         43 47 R_RES_1 1.173K 
R56         MID 49 R_RES_1 41.15 
R55         49 45 R_RES_1 411.55 
R54         41 MID R_RES_1 1 
GVCCS1      41 MID CL_CLAMP 49  -89.31
R81         MID 50 R_RES_1 1 
GVCCS12     50 MID 51 MID  -1
R61         MID 51 R_RES_1 850M 
C16         51 52  187.2P
R58         52 51 R_RES_1 1MEG 
GVCCS2      52 MID VCC_B MID  -2.7579
R57         MID 52 R_RES_1 1 
R80         MID 53 R_RES_1 1 
GVCCS11     53 MID 54 MID  -1
R79         MID 54 R_RES_1 19M 
C14         54 55  8.337N
R78         55 54 R_RES_1 10K 
GVCCS10     55 MID VEE_B MID  -427.79M
R49         MID 55 R_RES_1 1 
SW11        ESDp ESDn ESDp ESDn S_VSWITCH_1
SW10        ESDn ESDp ESDn ESDp S_VSWITCH_1
S5          V- ESDp V- ESDp S_VSWITCH_2
S4          V- ESDn V- ESDn S_VSWITCH_2
S2          ESDn V+ ESDn V+ S_VSWITCH_2
S3          ESDp V+ ESDp V+ S_VSWITCH_2
C28         56 MID  1P
R77         57 56 R_RES_1 100 
C27         58 MID  1P
R76         59 58 R_RES_1 100 
R75         MID 60 R_RES_1 1 
GVCCS8      60 MID 61 MID  -1
R74         62 MID R_RES_1 1 
GVCCS7      62 MID 63 MID  -1
XIQPos      VIMON MID MID V+ VCCS_LIMIT_IQ_0
XIQNeg      MID VIMON V- MID VCCS_LIMIT_IQ_0
C_DIFF      ESDp ESDn  1.8P
XCL_AMP     64 65 VIMON MID 66 67 CLAMP_AMP_LO_0
SOR_SWp     CLAMP 68 CLAMP 68 S_VSWITCH_3
SOR_SWn     69 CLAMP 69 CLAMP S_VSWITCH_3
XGR_AMP     70 71 72 MID 73 74 CLAMP_AMP_HI_0
R39         70 MID R_RES_1 1T 
R37         71 MID R_RES_1 1T 
R42         VSENSE 72 R_RES_1 1M 
C19         72 MID  1F
R38         73 MID R_RES_1 1 
R36         MID 74 R_RES_1 1 
R40         73 75 R_RES_1 1M 
R41         74 76 R_RES_1 1M 
C17         75 MID  1F
C18         MID 76  1F
XGR_SRC     75 76 CLAMP MID VCCS_LIM_GR_0
R21         66 MID R_RES_1 1 
R20         MID 67 R_RES_1 1 
R29         66 77 R_RES_1 1M 
R30         67 78 R_RES_1 1M 
C9          77 MID  1F
C8          MID 78  1F
XCL_SRC     77 78 CL_CLAMP MID VCCS_LIM_4_0
R22         64 MID R_RES_1 1T 
R19         MID 65 R_RES_1 1T 
XCLAWp      VIMON MID 79 VCC_B VCCS_LIM_CLAWP_0
XCLAWn      MID VIMON VEE_B 80 VCCS_LIM_CLAWN_0
R12         79 VCC_B R_RES_1 1K 
R16         79 81 R_RES_1 1M 
R13         VEE_B 80 R_RES_1 1K 
R17         82 80 R_RES_1 1M 
C6          82 MID  1F
C5          MID 81  1F
G2          VCC_CLP MID 81 MID  -1M
R15         VCC_CLP MID R_RES_1 1K 
G3          VEE_CLP MID 82 MID  -1M
R14         MID VEE_CLP R_RES_1 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 83 84 CLAMP_AMP_LO_0
R26         VCC_CLP MID R_RES_1 1T 
R23         VEE_CLP MID R_RES_1 1T 
R25         83 MID R_RES_1 1 
R24         MID 84 R_RES_1 1 
R27         83 85 R_RES_1 1M 
R28         84 86 R_RES_1 1M 
C11         85 MID  1F
C10         MID 86  1F
XCLAW_SRC   85 86 CLAW_CLAMP MID VCCS_LIM_3_0
H2          59 MID V11 -1
H3          57 MID V12 1
C12         SW_OL MID  100F
R32         87 SW_OL R_RES_1 100 
R31         87 MID R_RES_1 1 
XOL_SENSE   MID 87 58 56 OL_SENSE_0
S1          41 42 SW_OL MID S_VSWITCH_4
H1          88 MID V4 1K
S7          V- OUT V- OUT S_VSWITCH_2
S6          OUT V+ OUT V+ S_VSWITCH_2
R11         MID 89 R_RES_1 1T 
R18         89 VOUT_S R_RES_1 100 
C7          VOUT_S MID  1P
E5          89 MID OUT MID  1
C13         VIMON MID  1P
R33         88 VIMON R_RES_1 100 
R10         MID 88 R_RES_1 1T 
R47         90 VCLP R_RES_1 100 
C24         VCLP MID  100F
E4          90 MID CL_CLAMP MID  1
R46         MID CL_CLAMP R_RES_1 1K 
G9          CL_CLAMP MID CLAW_CLAMP MID  -1M
R45         MID CLAW_CLAMP R_RES_1 1K 
G8          CLAW_CLAMP MID 24 MID  -1M
R43         MID VSENSE R_RES_1 1K 
G15         VSENSE MID CLAMP MID  -1M
C4          39 MID  1F
R9          39 91 R_RES_1 1M 
R7          MID 92 R_RES_1 1T 
R6          93 MID R_RES_1 1T 
R8          MID 91 R_RES_1 1 
XVCM_CLAMP  94 MID 91 MID 93 92 VCCS_EXT_LIM_0
E1          MID 0 95 0  1
R89         VEE_B 0 R_RES_1 1 
R5          96 VEE_B R_RES_1 1M 
C3          96 0  1F
R60         95 96 R_RES_1 1MEG 
C1          95 0  1
R3          95 0 R_RES_1 1T 
R59         97 95 R_RES_1 1MEG 
C2          97 0  1F
R4          VCC_B 97 R_RES_1 1M 
R88         VCC_B 0 R_RES_1 1 
G17         VEE_B 0 V- 0  -1
G16         VCC_B 0 V+ 0  -1
R_PSR       98 94 R_RES_1 1K 
G_PSR       94 98 50 53  -1M
R2          40 ESDn R_RES_1 1M 
R1          98 99 R_RES_1 1M 
C_CMn       ESDn MID  1.2P
C_CMp       MID ESDp  1.2P
R35         IN- ESDn R_RES_1 10M 
R34         IN+ ESDp R_RES_1 10M 

.ENDS OPA891


* FEMT - input current noise in fA/rt-Hz
.SUBCKT FEMT_0 1 2
* Input variables
* Set up 1/f noise
* FLWF = 1/f frequency in Hz
.param FLWF=10
* NLFF = current noise density at 1/f frequency in fA/rt(Hz)
.param NLFF=17e3
* Set up broadband noise
* NVRF = broadband current noise density in fA/rt(Hz)
.param NVRF=1.74e3
* Calculated values
.param GLFF={PWR(FLWF,0.25)*NLFF/1164}
.param RNVF={1.184*PWR(NVRF,2)}
.model DVNF D KF={PWR(FLWF,0.5)/1e11} IS=1.0e-16
* Circuit connections
I1 0 7 10e-3
I2 0 8 10e-3
D1 7 0 DVNF
D2 8 0 DVNF
E1 3 6 7 8 {GLFF}
R1 3 0 1e9
R2 3 0 1e9
R3 3 6 1e9
E2 6 4 5 0 10
R4 5 0 {RNVF}
R5 5 0 {RNVF}
R6 3 4 1e9
R7 4 0 1e9
G1 1 2 3 4 1e-6
.ends



* VNSE - input voltage noise in nV/rt-Hz
.SUBCKT VNSE_0 1 2
* Input variables
* Set up 1/f noise
* FLW = 1/f frequency in Hz
.param FLW=10
* NLF = voltage noise density at 1/f frequency in nV/rt(Hz)
.param NLF=3.5
* Set up broadband noise
* NVR = broadband voltage noise density in nV/rt(Hz)
.param NVR=0.97
* Calculated values
.param GLF={PWR(FLW,0.25)*NLF/1164}
.param RNV={1.184*PWR(NVR,2)}
.model DVN D KF={PWR(FLW,0.5)/1E11} IS=1.0E-16
* Circuit connections
I1 0 7 10E-3
I2 0 8 10E-3
D1 7 0 DVN
D2 8 0 DVN
E1 3 6 7 8 {GLF}
R1 3 0 1E9
R2 3 0 1E9
R3 3 6 1E9
E2 6 4 5 0 10
R4 5 0 {RNV}
R5 5 0 {RNV}
R6 3 4 1E9
R7 4 0 1E9
E3 1 2 3 4 1
.ends



* Voltage-controlled current source with limits - Aol second stage
.SUBCKT VCCS_LIM_2_0 VC+ VC- IOUT+ IOUT-
.param Gain = 4.168e-3
.param Ipos = 0.25
.param Ineg = -0.25
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Voltage-controlled current source with limits - Aol first stage
.SUBCKT VCCS_LIM_1_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-4
.param Ipos = .5
.param Ineg = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Voltage-controlled current source with limits - Zo output
.SUBCKT VCCS_LIM_ZO_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1.286e3
.param Ipos = 200
.param Ineg = -200
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Voltage-controlled source with limits - Iout draw
.SUBCKT VCCS_LIMIT_IQ_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1e-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,Gain*V(VC+,VC-) )}
.ends



* Clamp amp - claw and current limit clamp
.SUBCKT CLAMP_AMP_LO_0 VC+ VC- VIN COM VO+ VO-
*  pins     Clamp V+  Clamp V-  Vin  COM   Vout+  Vout-
.param G=1
* Output G(COM,0) when condition not met
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends



* Clamp amp - overload and gross clamp
.SUBCKT CLAMP_AMP_HI_0 VC+ VC- VIN COM VO+ VO-
*  pins     Clamp V+  Clamp V-  Vin  COM   Vout+  Vout-
.param G=10
* Output G(COM,0) when condition not met
GVo+ COM Vo+ Value = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVo- COM Vo- Value = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ends



* Voltage-controlled current source with limits - gross clamp
.SUBCKT VCCS_LIM_GR_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.05
.param Ineg = -0.05
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Voltage-controlled current source with limits - current limit clamp
.SUBCKT VCCS_LIM_4_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.2e-3
.param Ineg = -0.2e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Voltage-controlled current source (table-defined) - claw+
.subckt VCCS_LIM_CLAWP_0 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {abs(V(VC+,VC-))} =
+(0, 1.3e-3)
+(150, 3.2e-3)

.ends



* Voltage-controlled current source (table-defined) - claw-
.SUBCKT VCCS_LIM_CLAWN_0 VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {abs(V(VC+,VC-))} =
+(0, 1.3e-3)
+(150, 4.3e-3)
.ends



* Voltage-controlled current source with limits - claw clamp
.SUBCKT VCCS_LIM_3_0 VC+ VC- IOUT+ IOUT-
.param Gain = 1
.param Ipos = 0.4e-3
.param Ineg = -0.4e-3
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VC+,VC-),Ineg,Ipos)}
.ends



* Overload sense for Zo switches
.SUBCKT OL_SENSE_0 COM SW+ OLN  OLP
* pins          COM SW+ OLN OLP
GSW+ COM SW+ Value = {IF((V(OLN,COM)>10e-3 | V(OLP,COM)>10e-3),1,0)}
.ends



* Voltage-controlled current source with external limits - Vcm clamp
.SUBCKT VCCS_EXT_LIM_0 VIN+ VIN- IOUT- IOUT+ VP+ VP-
.param Gain = 1
G1 IOUT+ IOUT- VALUE={LIMIT(Gain*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ends



.END
